US03932465
A solution of 15.12 g of furanacetic acid in 120 ml of methylene chloride is cooled to 0°; 15.6 g of chloromethylene-dimethylammonium chloride are added and the mixture is stirred for 10 minutes while cooling with ice. A solution of 30 g of 2-bromoethanol and 19.4 ml of pyridine in 60 ml of methylene chloride is then added dropwise with stirring and the reaction mixture is left to stand for 20 minutes while cooling with ice and for 1 hour at room temperature. The solution is extracted three times with a 5% aqueous sodium bicarbonate solution and once with a saturated aqueous sodium chloride solution, dried over sodium sulphate and distilled under reduced pressure. The 2-furanacetic acid 2-bromoethyl ester is obtained at 76°/0.25 mm; infrared absorption spectrum (in methylene chloride): characteristic bands at 3,44μ, 5,72μ, 6,10μ, 7,49μ, 8,20μ, 8,68μ, 9,31μ and 9,86μ.

reactant | furanacetic acid | 15.12 g | O1C(=CC=C1)CC(=O)O | C6H6O3
reactant | chloromethylene-dimethylammonium chloride | 15.6 g | [Cl-].ClC=[N+](C)C
reactant | 2-bromoethanol | 30 g | BrCCO | C2H5BrO
reactant | pyridine | 19.4 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 2-furanacetic acid 2-bromoethyl ester | BrCCOC(CC=1OC=CC1)=O | C8H9BrO3
